US08536346B2
2-Methyltryptamine (50 g, 287 mmole) and (E)-3-(4-formyl-phenyl)-acrylic acid methyl ester (54.6 g, 287 mmole) are suspended in methanol (514 g). The solution is stirred for 1 hour at 20-25° C., to allow the formation of the imine intermediate. The solution is cooled to −15° C. within ca. 20 minutes. Sodium borohydride (5.43 g, 143.5 mmole) is added in several portions during ca. 1 hour while maintaining the temperature at −15° C. to −10° C. The reaction mixture is stirred for additional 30 minutes at this temperature and the temperature is raised to 20-25° C. within ca. 25 minutes. The reaction mixture is stirred for 30 minutes at 20-25° C. and water (80 g) is slowly added while maintaining the temperature at 20-25° C. The pH of the reaction mixture is adjusted to 8.5 by slow addition of an aqueous hydrochloric acid solution (ca. 37.3 g of a 21.6 m/m % solution in water) at 20-25° C., until the pH of the solution reaches 8.5. The addition needs ca. 30 minutes in this case. After completion of the addition, the reaction mixture is stirred for one hour at 20-25° C. to allow crystallization. At this stage, the solution can be seeded with crystals of (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]-phenyl)-acrylic acid methyl ester hydrochloride salt to accelerate the crystallization. A suspension is obtained. A second portion of aqueous hydrochloric acid (36 g of a 21.6% m/m HCl solution in water) is added to the suspension during 30 minutes at 20-25° C., followed by the addition of a third portion of aqueous hydrochloric acid (167.7 g of a 21.6% m/m HCl solution in water) during 30 minutes at 20-25° C. The suspension is heated to 65° C. Then, the suspension is cooled to −15° C. and stirred for 30 minutes at −10 to −15° C. to complete the crystallization. The product is isolated by filtration and the wet filter cake is washed with pre-cooled (−15° C.) methanol (2×150 g). The wet product is dried at 50° C. under reduced pressure to obtain pure (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]-phenyl)-acrylic acid methyl ester hydrochloride salt as product. The product has usually >99 area % purity according to HPLC. IR, NMR and HR-MS confirmed the proposed structure. Melting point: decomposition starting at 251-252° C.

reactant | 2-Methyltryptamine | 287 mmole, 50 g | CC1=C(CCN)C2=CC=CC=C2N1 | C11H14N2
reactant | (E)-3-(4-formyl-phenyl)-acrylic acid methyl ester | 287 mmole, 54.6 g | COC(\C=C\C1=CC=C(C=C1)C=O)=O | C11H10O3
reactant | Sodium borohydride | 143.5 mmole, 5.43 g | [BH4-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 514 g | CO | CH4O
solvent | water | O | H2O
solvent | water | 80 g | O | H2O
product | (E)-3-(4-{[2-(2-methyl-1H-indol-3-yl)-ethylamino]-methyl]-phenyl)-acrylic acid methyl ester hydrochloride salt | Cl.COC(\C=C\C1=CC=C(C=C1)CNCCC1=C(NC2=CC=CC=C12)C)=O | InChI=1S/C22H24N2O2.ClH/c1-16-19(20-5-3-4-6-21(20)24-16)13-14-23-15-18-9-7-17(8-10-18)11-12-22(25)26-2;/h3-12,23-24H,13-15H2,1-2H3;1H/b12-11+;
